US07141596B2
Step 2. Synthesis of 5-(4-[(4-phenoxybenzyl)oxy]methylphenyl)isothiazolidin-3-one 1,1-dioxide
2 M Lithium borohydride in tetrahydrofuran (0.036 mL, 0.072 mmol) was added to 5-(4-[(4-phenoxybenzyl)oxy]methylphenyl)isothiazol-3(2H)-one 1,1-dioxide (40 mg, 0.009 mmol) in tetrahydrofuran (0.5 mL). After stirring for 25 minutes, the reaction was quenched with saturated aqueous ammonium chloride. The product was purified on a 50 mm Luna C18 column using a 20–100% acetonitrile in water gradient with 0.05% trifluoroacetic acid at 30 mL per minute over a 30 minute period. The major product was lyophilized to give a white powder (4 mg, 100%). 1H NMR (400 MHz, CDCl3): δ 7.46 (m, 4H), 7.34 (m, 4H), 7.11 (t, J=7.4 Hz, 1H), 7.01 (m, 4H), 4.98 (t, J=8.4 Hz, 1H), 4.60 (s, 2H), 4.55 (s, 2H), 3.38 (dd, J=8.0 Hz, J′=1.3 Hz, 2H); LCMS found for C23H21NNaO5S (M+Na)+: m/z=446.1.

reactant | Lithium borohydride | 2 M | [BH4-].[Li+]
reactant | 5-(4-[(4-phenoxybenzyl)oxy]methylphenyl)isothiazol-3(2H)-one 1,1-dioxide | 0.009 mmol, 40 mg | O(C1=CC=CC=C1)C1=CC=C(COCC2=CC=C(C=C2)C2=CC(NS2(=O)=O)=O)C=C1 | C23H19NO5S
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.072 mmol, 0.036 mL | O1CCCC1 | C4H8O
product | 5-(4-[(4-phenoxybenzyl)oxy]methylphenyl)isothiazolidin-3-one 1,1-dioxide | 4 mg, 100% | O(C1=CC=CC=C1)C1=CC=C(COCC2=CC=C(C=C2)C2CC(NS2(=O)=O)=O)C=C1 | C23H21NO5S
